US04474775
Synthesis of 3-chloropyruvaldehyde 4-chlorophenylhydrazone (Compound No. f')
In a mixture of 500 ml of water and 250 ml of concentrated hydrochloric acid is dissolved 128 g of p-chloroaniline. To this solution is added dropwise a solution of 69 g of sodium nitrite in 100 ml of water, while the reaction temperature is maintained at 0° C. Then, to the reaction mixture is added a solution of 136.5 g of 4-chloroacetoacetic acid in 200 ml of water, while the reaction temperature is maintained within the range from 0° C. to 5° C., followed by further addition of a solution of 164 g of sodium acetate in 300 ml of water, whereupon yellow precipitate is produced while bubbling vigorously. The reaction mixture is stirred at a room temperature until the bubbling ceases, followed by collecting the crystals by filtration, washing with water and drying, whereby 224 g of the subject compound is obtained. Yield 97%. m.p. 190° C.-192° C. (decomp.)

reactant | p-chloroaniline | 128 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | sodium nitrite | 69 g | N(=O)[O-].[Na+]
reactant | 4-chloroacetoacetic acid | 136.5 g | ClCC(CC(=O)O)=O | C4H5ClO3
reactant | sodium acetate | 164 g | C(C)(=O)[O-].[Na+]
solvent | water | 500 ml | O | H2O
solvent | hydrochloric acid | 250 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 3-chloropyruvaldehyde 4-chlorophenylhydrazone | 224 g, Yield 97% | ClC1=CC=C(C=C1)NN=C(C=O)CCl | C9H8Cl2N2O
